US06875781B2
[2-Chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl]-p-tolyl-amine
A mixture of 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine (715 mg, 2.65 mmol), p-tolylboronic acid (722 mg, 5.3 mmol), copper (II) acetate (962 mg, 5.3 mmol), triethylamine (1.5 ml, 10.6 mmol) and molecular sieves (4 angstrom) in dichloromethane (40 ml) was stirred under oxygen atmosphere for 60 hours. The mixture was filtered through a pad of celite under suction. The filtrate was purified by flash chromatography eluting with ethyl acetate-hexane (1:3 followed by 2:5) to provide the title compound (680 mg, 72% yield). 1H NMR (DMSO-d6) δ 2.32 (s, 3H, CH3), 3.91 (s, 3H, CH3), 6.73 (d, 1H, J=1.9 Hz, Ar), 7.14 (d, 2H, J=8.4 Hz, Ar), 7.18 (d, 1H, J=8.9 Hz, Ar), 7.22 (d, 2H, J=8.2 Hz, Ar), 7.44-7.48 (m, 2H, Ar), 7.75 (d, 1H, J=2.8 Hz, Ar), 9.1 (s, 1H, NH).

reactant | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine | 2.65 mmol, 715 mg | ClC1=NC(=CC(=C1)N)C1=C(C=CC(=C1)Cl)OC | C12H10Cl2N2O
reactant | p-tolylboronic acid | 5.3 mmol, 722 mg | B(C=1C=CC(=CC1)C)(O)O | C7H9BO2
reactant | triethylamine | 10.6 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 5.3 mmol, 962 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | [2-Chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl]-p-tolyl-amine | 680 mg, 72% yield | ClC1=NC(=CC(=C1)NC1=CC=C(C=C1)C)C1=C(C=CC(=C1)Cl)OC | C19H16Cl2N2O
